US04713387
In 15 ml of methylene chloride was suspended 8.1 g of anhydrous aluminum chloride, and 3.0 ml of 3-chloropropionyl chloride was added to the suspension with ice-cooling, after which 5.0 g of 3-benzylpyridine hydrochloride was added in small portions to the resulting mixture over 30 minutes. The resulting mixture was subjected to reaction at room temperature for one hour, and then the reaction mixture was added to 30 ml of iced water. The crystals thus precipitated were collected by filtration, and suspended in a mixture of 50 ml of ethyl acetate and 30 ml of water, after which the resulting suspension was neutralized with sodium hydrogen-carbonate with ice-cooling. Insolubles were removed by filtration, and the organic layer of the filtrate was separated, washed with 10 ml of a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure to obtain 5.5 g (yield 86.6%) of pale yellow, oily 3-[p-(3-chloropropionyl)benzyl]pyridine.

reactant | aluminum chloride | 8.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-chloropropionyl chloride | 3.0 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | 3-benzylpyridine hydrochloride | 5.0 g | Cl.C(C1=CC=CC=C1)C=1C=NC=CC1
reactant | water | 30 ml | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-[p-(3-chloropropionyl)benzyl]pyridine | yield 86.6% | ClCCC(=O)C1=CC=C(CC=2C=NC=CC2)C=C1 | C15H14ClNO
